US04098888
To a solution of 2.51 g. of N-(β,β,β-trichloroethoxycarbonyl)thiourea and 2.66 g. of ethyl α-acetamido-β-oxo-γ-bromobutyrate in 50 ml. of ethanol is added 1.8 g. of N,N-dimethylaniline. The mixture is stirred for 24 hours at room temperature, and condensed under reduced pressure. The residue is dissolved in 30 ml. chloroform and the solution is washed with 3N-HCl, water, and dried. The solid matter which is obtained by removal of chloroform is purified by silica gel chromatography to give ethyl α-acetamido-2-(β,β,β-trichloroethoxycarbonylamino)thiazol-4-ylacetate. 1.43 g. Melting point: 161.9° C.

reactant | N-(β,β,β-trichloroethoxycarbonyl)thiourea | ClC(COC(=O)NC(=S)N)(Cl)Cl | C4H5Cl3N2O2S
reactant | ethyl α-acetamido-β-oxo-γ-bromobutyrate | C(C)(=O)NC(C(=O)OCC)C(CBr)=O | C8H12BrNO4
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
solvent | ethanol | C(C)O | C2H6O
product | ethyl α-acetamido-2-(β,β,β-trichloroethoxycarbonylamino)thiazol-4-ylacetate | C(C)(=O)NC(C(=O)OCC)C=1N=C(SC1)NC(=O)OCC(Cl)(Cl)Cl | C12H14Cl3N3O5S
